US04900476
A mixture of 21.25 g (0.064 mol) of (rac.-5-[2,5-bis(acetyloxy)-3,4,6-trimethylphenyl]-3-methyl-1-pentyn-3-ol), 12.12 g (0.12 mol) of triethylamine, 2.44 g (0.02 mol) of 4-dimethylaminopyridine, and 11.84 g (0.08 mol) of phthalic anhydride in 100 mL of dichloromethane was stirred at 25° C. for 3.0 h, then heated under reflux for 10 h. The reaction mixture was cooled to 25° C. and diluted with 200 mL of diethylether. The solution was washed with 3×150 mL of 1.0N HCl. The aqueous phase was further extracted with 2×200 mL of diethylether. The organic phases were combined and extracted with 3×100 mL of 1.0N ammonium hydroxide. The basic aqueous extracts were combined, cooled in an ice-bath, and acidified carefully to pH 5.0 with approximately 60 mL of cold 6.0N HCl. It was then extracted with 4×200 mL of dichloromethane. The combined extracts were dried over MgSO4. Filtration and solvent removal on a rotary evaporator (35° C., 40 mm) gave a light yellow oily residue. This material was transferred to a flask with about 100 mL of diethylether, and the solvent was evaporated as described above to give a foam, which was further dried at 25° C./0.5 mm for 18 h to yield 31 g of rac.-benzenedicarboxylic acid [3-[2,5-bis (acetyloxy)-3,4,6-trimethylphenyl]-1-ethynyl-1-methylpropyl] ester as a pale yellow foam.

reactant | rac.-5-[2,5-bis(acetyloxy)-3,4,6-trimethylphenyl]-3-methyl-1-pentyn-3-ol | 0.064 mol, 21.25 g | C(C)(=O)OC1=C(C(=C(C(=C1C)C)OC(C)=O)C)CCC(C#C)(O)C | C19H24O5
reactant | triethylamine | 0.12 mol, 12.12 g | C(C)N(CC)CC | C6H15N
reactant | phthalic anhydride | 0.08 mol, 11.84 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
catalyst | 4-dimethylaminopyridine | 0.02 mol, 2.44 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
solvent | diethylether | about 100 mL | C(C)OCC | C4H10O
product | rac.-benzenedicarboxylic acid [3-[2,5-bis (acetyloxy)-3,4,6-trimethylphenyl]-1-ethynyl-1-methylpropyl] ester | 31 g | C(C)(=O)OC1=C(C(=C(C(=C1C)C)OC(C)=O)C)CCC(C)(C#C)OC(=O)C=1C(=CC=CC1)C(=O)O | C27H28O8
